US06130187
Preparation of 3-(4-chloro-2-propargyloxyphenyl)-1-methyl-6-trifluoromethyluracil
22.6 g (70.5 mmol) of 3-(4-chloro-2-hydroxyphenyl-1-methyl-6-trifluoromethyluracil and 14.5 g (105.1 mmol) of potassium carbonate were suspended in 150 ml of N,N-dimethylformamide, and 11.2 g (94.1 mmol) of propargyl bromide was dropwise added thereto at room temperature. After stirring at 70° C. for 2 hours, the reaction solution was poured into water and extracted with ethyl acetate. The organic layer was washed sequentially with water and a saturated sodium chloride aqueous solution and then, dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. Then, the obtained crude crystals were washed with isopropyl ether to obtain 22.5 g (yield: 89.0%) of the desired product as pale brown powder. Melting point: 147-148° C.

reactant | 4-chloro-2-hydroxyphenyl-1-methyl-6-trifluoromethyluracil | ClC1=CC(=C(C=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)O | C12H8ClF3N2O3
reactant | potassium carbonate | 105.1 mmol, 14.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | propargyl bromide | 94.1 mmol, 11.2 g | C(C#C)Br | C3H3Br
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 3-(4-chloro-2-propargyloxyphenyl)-1-methyl-6-trifluoromethyluracil | 22.5 g, yield: 89.0% | ClC1=CC(=C(C=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)OCC#C | C15H10ClF3N2O3
